US06242443B1
(3-Isopropylamino-1,1-dioxo-1,4-dihydro-1λ6,2,4-benzothiadiazin-6-yl)acetonitrile
A slurry of 2-(3-isopropylamino-1,1-dioxo-1,4-dihydro-1λ6,2,4-benzothiadiazin-6-yl)acetamide (50 mg) in a mixture of 0.8 ml of acetonitrile, 0.2 ml of formic acid and 25 mg of paraformaldehyde was heated at reflux for 16 h, and then evaporated to dryness. The residue was purified on a silica column eluted with dichloromethane-methanol (95:5) to give the title compound; m.p. 195-203° C.

reactant | 2-(3-isopropylamino-1,1-dioxo-1,4-dihydro-1λ6,2,4-benzothiadiazin-6-yl)acetamide | 50 mg | C(C)(C)NC1=NS(C2=C(N1)C=C(C=C2)CC(=O)N)(=O)=O | C12H16N4O3S
reactant | formic acid | 0.2 ml | C(=O)O | CH2O2
reactant | paraformaldehyde | 25 mg | C=O | CH2O
solvent | acetonitrile | 0.8 ml | C(C)#N | C2H3N
product | (3-Isopropylamino-1,1-dioxo-1,4-dihydro-1λ6,2,4-benzothiadiazin-6-yl)acetonitrile | C(C)(C)NC1=NS(C2=C(N1)C=C(C=C2)CC#N)(=O)=O | C12H14N4O2S
